US09387200B2
b) {[4-Hydroxy-7-(4-methoxy-phenyl)-3-phenyl-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid
The title compound was synthesized in analogy to Example 1 from 7-(4-methoxy-phenyl)-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and glycine: MS (m/z) 436.2 (M+1).

reactant | 7-(4-methoxy-phenyl)-4-hydroxy-3-phenyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=C(C=C1)OC)SN=C2C2=CC=CC=C2)O | C22H18N2O4S
reactant | glycine | NCC(=O)O | C2H5NO2
product | {[4-Hydroxy-7-(4-methoxy-phenyl)-3-phenyl-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-acetic acid | OC1=C2C(=C(N=C1C(=O)NCC(=O)O)C1=CC=C(C=C1)OC)SN=C2C2=CC=CC=C2 | C22H17N3O5S
